US09212187B2
Synthesis of 1-(pyridin-3-yl)-2,3-dihydrobenzoimidazol-2-one
N,N′-Carbonyldiimidazole(0.57 g) was added to a DMF solution (5 ml) of N-pyridine-3-ylbenzene-1,2-diamine(0.5 g). The mixture was stirred at room temperature for 1.5 hours. Water was added to the reaction mixture and the precipitated insoluble matter was separated, washed with water, and dried to give the title compound(0.5 g) as a pale whitish purple powder.

reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | N-pyridine-3-ylbenzene-1,2-diamine | 0.5 g | N1=CC(=CC=C1)NC=1C(=CC=CC1)N | C11H11N3
solvent | Water | O | H2O
product | 1-(pyridin-3-yl)-2,3-dihydrobenzoimidazol-2-one | 0.5 g | N1=CC(=CC=C1)N1C(NC2=C1C=CC=C2)=O | C12H9N3O
